US05780642
A solution of 2-[3-(imidazol-1-yl)propylamino]-2-methyl-1-propanol (1.5 g) in dimethyl acetamide (10 ml) was added dropwise to a stirred suspension of sodium hydride (0.32 g of a 60% dispersion in mineral oil) in dimethyl acetamide (15 ml) at 30° C. under nitrogen. The mixture was stirred for 45 minutes at 30° C. and then a solution of 4-chlorobenzyl chloride (1.63 g) in dimethyl acetamide (5 ml) was added. After the addition, the mixture was heated at 100°-105° C. for 30 minutes and then cooled to 25° C. Toluene (50 ml) was added and the mixture was washed with water. The toluene layer was extracted with 5M hydrochloric acid. The combined acid extracts were basified with concentrated sodium hydroxide solution with cooling and extracted with dichloromethane to give an oil which was distilled under high vacuum to give N-[2-(4-chlorobenzyloxy)-1,1-dimethylethyl]-3-(imidazol-1-yl)propylamine, b.p. 180°-185° C. at 0.3 mbar.

reactant | 2-[3-(imidazol-1-yl)propylamino]-2-methyl-1-propanol | 1.5 g | N1(C=NC=C1)CCCNC(CO)(C)C | C10H19N3O
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chlorobenzyl chloride | 1.63 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | Toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethyl acetamide | 10 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethyl acetamide | 15 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethyl acetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | N-[2-(4-chlorobenzyloxy)-1,1-dimethylethyl]-3-(imidazol-1-yl)propylamine | ClC1=CC=C(COCC(C)(C)NCCCN2C=NC=C2)C=C1 | C17H24ClN3O
